US06642389B2
4.00 g of methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester [PCT Int. Appl. (2000) WO0008002] (14.22 mmol), 2.00 g of 4-indanol (14.93 mmol) and 487.6 mg of tetrabutylammonium hydrogen sulfate were dissolved in 65 ml of toluene and heated to 80° C. KOH was then slowly added (10.66 ml of a 2M solution in H2O, 21.33 mmol), keeping the temperature at 75-80° C. The resulting mixture was stirred for 4 hours at 80° C. 35 ml of water were added, the mixture stirred for another 5 minutes at 80° C. and the water phase was then removed. 20 ml of water were added to the toluene phase, the mixture stirred for 5 minutes at 80° C., and the water phase removed. The water phase was extracted 3 times with dichloromethane. The combined organic phases were dried over MgSO4 and evaporated to afford 4.90 g (100%) of 4-[2-(indan-4-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole as brown solid.

reactant | methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester | 14.22 mmol, 4.00 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C | C13H15NO4S
reactant | 4-indanol | 14.93 mmol, 2.00 g | C1CCC=2C(=CC=CC12)O | C9H10O
reactant | KOH | [OH-].[K+]
catalyst | tetrabutylammonium hydrogen sulfate | 487.6 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
solvent | H2O | O | H2O
solvent | water | 35 ml | O | H2O
product | 4-[2-(indan-4-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole | 4.90 g, 100% | C1CCC2=C(C=CC=C12)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C21H21NO2
